US07683079B2
To a solution of 1-benzyl-3-o-tolyl-piperidine-4-one (5165 mg) in acetone (25 ml) was slowly added methyl iodide (3048 mg) at room temperature. The solution was stirred at room temperature over night. A white solid precipitated and was filtered off. The solid was washed four times with 50 ml of acetone and dried under reduced vacuum. The filtrate was evaporated and the residue was stirred with ethyl acetate. The white solid was filtered, washed with ethyl acetate and dried under vacuum. The two solids were combined to yield 1-benzyl-3-butyl-1-methyl-4-oxo-piperidinium iodide as a yellowish solid (4400 mg). MS (ESI): 294.3 (M−I−).

reactant | 1-benzyl-3-o-tolyl-piperidine-4-one | 5165 mg | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C1=C(C=CC=C1)C | C19H21NO
reactant | methyl iodide | 3048 mg | CI | CH3I
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 1-benzyl-3-butyl-1-methyl-4-oxo-piperidinium iodide | 4400 mg | [I-].C(C1=CC=CC=C1)[N+]1(CC(C(CC1)=O)CCCC)C | InChI=1S/C17H26NO.HI/c1-3-4-10-16-14-18(2,12-11-17(16)19)13-15-8-6-5-7-9-15;/h5-9,16H,3-4,10-14H2,1-2H3;1H/q+1;/p-1
